Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"Lately I haven't been able to get more than
three hours of sleep at a time."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
=================
___ is a ___ year old ___ student with no formal past
psychiatric history or hospitalizations, ___ significant for HTN
(not requiring medication), who presented to the ___ ED from 
___ after voicing symptoms of hopelessness, shame,
insomnia and increasing frequency of suicidal ideation.

The patient reports for the last three weeks he has been unable
to sleep for more than three hours at a time. He awakes from
frequent nightmares and reports having "panic attacks." He
describes these attacks as feeling SOB, having a heaviness in 
his
chest, racing heart, and cold sweats. He has become anxious 
about
the panic attacks and nightmares and now avoids going to bed and
attempts to stay up as late as possible. 

Patient reports worsening in panic symptoms and sleep since
___ weekend. The patient reports a traumatic event at
his church in ___ around this same time in which he states  "I
was put in a situation where I was forced to take someone else's
life". Every year since then he has had poor sleep, nightmares,
panic symptoms, guilt and shame around the anniversary of the
event. Usually the symptoms resolve after a week or so, but this
year the symptoms have not improved but have worsening. He
reports declining grades and difficulty attending classes and
going to work. His academic ___ referred him to ___ for evaluation.

The patient also reports having anxiety about "going out."  He
describes episodes where he will "freeze up" and his friends
notice he is "not with it" for a few minutes. He reports these
episodes are triggered by seeing someone with characteristics
related to those individuals involved in the ___ incident. When
trying to decide whether to go out, he states that he cannot
decide and ends up talking to himself back and forth about the
whether or not people will judge him, so it is better to stay
home. He describes this as "social anxiety".

Patient endorses worsening SI with more elaborate plans. He says
the plan initially started as thoughts about drowning himself in
a river. Now, he says he has "planned out every step and 
mentally
rehearsed it". He shared a plan to tell his parents that 
"college
isn't for me, I am going on a soul searching mission" and then
rent a remote cabin in the woods and hang himself. He denies
researching this method. or physically rehearsing the plan. He
denies access to weapons, family history of suicide, or past
suicide attempts but endorses keeping a knife in his bedside
table at home in ___ ever since ___ "just ___
case". When asked if he would ever carry through with the plan,
patient states that thinking about his parents and all they have
invested in him stops him from actually going through with it,
however he refuses to let us contact his family. He says they
have not been supportive of his past requests to see psychiatry
and they attribute his depressive symptoms to staying up late
playing too many video games. 

COLLATERAL: Patient did not give permission to contact parents,
other family, or friends
 
=================
 REVIEW OF SYSTEMS:
 ==================
 Positive per HPI
 Denies the following:
 -appetite/weight change, diminished concentration, thought
broadcasting/insertion, hallucinations, elevated/irritable mood,
increased activity/energy, decreased need for sleep, 
grandiosity,
increased speech, racing thoughts, distractibility, increase in
goal-directed activity/psychomotor agitation, and 
social/economic
indiscretion. 
 
Past Medical History:
=========================
 PAST PSYCHIATRIC HISTORY:
 =========================
 - Past diagnoses:none
 - Hospitalizations:none
 - Psychiatrist:none
 - Therapist:none
 - Medication and ECT trials:none
 - Self-injury/Suicide attempts:denies
 - Trauma history: In ___ the patient reports that he had 
traumatic incident, has recurrent nightmares and
"panic attacks" relating to this incident 

=====================
 PAST MEDICAL HISTORY:
 =====================
 - PCP:denies 
 - Head trauma:denies
 - Seizure hx:denies
 - PMHx:HTN (not requiring medication)

 
Social History:
======================
 SUBSTANCE USE HISTORY:
 ======================
-Alcohol: endorses 4 drinks/week, "I haven't turned to 
alcoholism
yet, which is surprising"
-Tobacco: quit several years ago, was previously smoking 2 packs
a week
-Caffeine: Drinks coffee, but has been cutting back recently 
-Other illicit substances and IVDU: denies

=================
 FORENSIC HISTORY:
 =================
 - Arrests: denies 
 - Convictions and jail terms: denies
 - Current status (pending charges, probation, parole): denies
 - Access to guns: denies
===============
 SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
 ===========================
 - Fam Dx: denies
 - Fam Hospitalizations: denies
 - Fam Treatment Hx/Med Trials: denies
 - Fam Hx Suicide: denies

 
Physical Exam:
Admission EXAM:
 =====
 - VS: T 98.3 HR 81 BP 140/85 RR 17 97% RA

 NEUROLOGICAL  
 - Station and Gait: 
      - not observed; patient evaluated in ED bed
 - Strength: 
      - normal bulk; moves all extremities anti-gravity
 - Abnormal Movements: 
      - no tics, tremors, evidence of EPS
 - Cranial Nerves
     - EOMI, nasolabial folds symmetric, palate elevates
symmetrically, tongue protrudes midline

 COGNITION 
 - Wakefulness/alertness: 
      - awake and alert
 - Attention: 
      - WORLD backwards with 0 errors
 - Orientation: 
      - ___
      - oriented to self, date, and situation   
 - Memory: not formally assessed, grossly in tact
      - Fund of knowledge: 
      - consistent with education; intact to ___, ___, ___
 - Calculations: 
      - $1.75 = 7 quarters
 - Abstraction: 
      - Don't judge a book by it's cover = "the outside isn't 
the
full story" 
 - Language: 
      - Native ___ speaker, no paraphasic errors, 
appropriate
to conversation

MENTAL STATUS
 - Appearance/Behavior: 
      - appears stated age, well groomed, wearing hospital gown,
in no apparent distress sitting up in bed, intermittent eye
contact,
 - Attitude: 
      - cooperative, engaged
 - Mood: 
      - "50/50, ok half the time, not ok the other half"
 - Affect: 
      - mood-congruent, restricted range of affect, dysphoric
 - Speech: 
      - normal rate, volume, and tone
 - Thought process: 
      - linear, coherent, goal-oriented, no loose associations
 - Thought Content:
      - Safety: endorses SI with recent plan to find a remote
area in the woods and hang himself, denies HI
      - Delusions: no evidence of paranoia, etc. 
      - Obsessions/Compulsions: no evidence based on current
encounter
      - Hallucinations: denies AVH, not appearing to be 
attending
to internal stimuli
 - Insight: 
      - limited
 - Judgment: 
      - poor

Discharge Exam: 
Mental Status Exam:
Appearance: well groomed
facial expression: friendly
build: overweight
Behavior: engaging, cooperative, pleasant
Eye contact: direct
psychomotor: no abnormal involuntary movements, gait - normal,
Speech: normal rate, volume and tone
Mood/affect: "OK", brighter, stable, no angry outbursts, hopeful
Thought Process/content: linear, goal directed,  denies SI/HI,
denies AH/VH/delusions
Intellectual Functioning: fair concentration
Oriented: x4
Memory: grossly intact
insight: fair
Judgment: fair

 
Pertinent Results:
___ 08:51PM URINE  HOURS-RANDOM
___ 08:51PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 08:51PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 08:51PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 08:51PM URINE  RBC-1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 08:51PM URINE  MUCOUS-MANY*
___ 04:20PM   GLUCOSE-98 UREA N-14 CREAT-0.7 SODIUM-142 
POTASSIUM-4.7 CHLORIDE-103 TOTAL CO2-26 ANION GAP-13
___ 04:20PM   estGFR-Using this
___ 04:20PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 04:20PM   WBC-11.4* RBC-4.94 HGB-14.3 HCT-44.2 MCV-90 
MCH-28.9 MCHC-32.4 RDW-14.4 RDWSD-46.9*
___ 04:20PM   NEUTS-64.5 ___ MONOS-7.1 EOS-1.4 
BASOS-0.8 IM ___ AbsNeut-7.36* AbsLymp-2.94 AbsMono-0.81* 
AbsEos-0.16 AbsBaso-0.09*
___ 04:20PM   PLT COUNT-424*
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient was admitted on a ___, which 
expired on ___, pt signed CV that ___.   He was also placed on 
Q15 minute checks status on admission and remained on that level 
of observation throughout while being unit restricted.

2. PSYCHIATRIC:
___ is a ___ year old ___ student with no formal past 
psychiatric history or hospitalizations, who presented to the 
___ ED from ___ behavioral ___ after voicing symptoms of 
hopelessness, shame, insomnia and increasing frequency of 
suicidal ideation.

Patient described his childhood with very traditional and strict 
parents and a punitive upbringing.  After elementary school, he 
went to an all-boys ___ school where he had trouble getting 
along with peers. He was part of the out group along with others 
students who had autism, poor social skills, etc. He was one of 
1 or 2 Asian students in a predominantly white school. He was 
bullied and called racial slurs, which he got used to. He says 
he started to bully other students in order to try to assimilate 
and escape the group of outcasts. He had a close friend in high 
school who committed suicide. He had a lot of trouble dealing 
with that event and he regrets not having done more to possibly 
prevent his friend's death. He also had a traumatic event in 
___ which deeply affected him. Each year around the anniversary 
of the event, he feels remorse, guilt, sleeplessness, has 
nightmares and symptoms of panic attacks. For the past three 
weeks, he has difficulty sleeping and having nightmares. He has 
been out of school for this time due to anxiety. His stressors 
include poor academic performance, parents not being supportive, 
feelings of worthlessness. 

He denies SI/HI/AVH. He said he had passing thoughts of suicide 
over the years. His thoughts involved telling his parents that 
he was going away on a religious mission to find God and then 
renting a cabin and hanging himself. He says these are passing 
thoughts in the shower. He says he would not kill himself 
because of his parents and he does not have the courage do it. 
He has had friends with SI. One of his friends had sent him a 
long suicide note at 3 am once and he called other friends to 
prevent that. One of his high school friends did commit suicide, 
which he feels guilty about not doing more. Accepted treatment 
with Zoloft and the dose was optimized to 50 mg daily. Refused 
Prazosin for nightmares and Ramelteon that was suggested to 
improve his sleep stating that "after talking I already feel 
better and I can sleep fine".  

3. SUBSTANCE USE DISORDERS:
#) None

4. MEDICAL
#) No acute issues

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. Patient 
was initially hesitant to attend groups. With encouragement, 
patient attended these groups that focused on teaching patients 
various coping skills. In the milieu, patient was pleasant and 
cooperative but had limited interactions with peers.

#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
Dr. ___, called ___ mother, along with SW 
___. Patient consented for us to inform his mother about 
his hospitalization, depression and suicidal ideation. He 
preferred we call his mother without him being in the room. 
Informed Mrs. ___ about ___ hospitalization,
depressive symptoms, and suicidal ideation. She was very 
surprised because he seemed fine over the summer. She was very 
concerned about his status with school. Provided education about 
depression, symptoms, risk of death with suicide, the need for 
therapy and treatment. Advised mother to be supportive, 
understanding, and loving at this time when she communicates 
with patient to avoid regression.

#) INTERVENTIONS
- Medications: Sertraline 50 mg daily
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Appointment with therapist. Will 
need two appointments with therapist before psychiatry referral. 

- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
-Guardianships:none

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the ___ right to decide whether to 
take this medication as well as the importance of the ___ 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  The 
patient appeared able to understand and consented to begin the 
medication.

RISK ASSESSMENT & PROGNOSIS

On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
suicidal ideation with a plan.  His static factors noted at that 
time include chronic mental illness, male gender, age, marital 
status, trauma history.   The modifiable risk factors were also 
addressed at that time, including suicidal ideation with/without 
intent/plan, lack of engagement with outpatient treatment, 
hopelessness, limited social supports, limited coping skills, no 
established outpatient treatment, insomnia. Insomnia improved 
after counseling and therapy. Referred patient to outpatient 
treatment. Patient learned coping skills during groups. Patient 
reported no more SI.  Finally, the patient is being discharged 
with many protective risk factors,  
including help-seeking nature, future-oriented viewpoint, sense 
of responsibility to family, reality testing ability, lack of 
suicidal ideation, no history of substance use disorder. 
Overall, the patient is not at an acutely elevated risk of 
self-harm nor danger to others due to acutely decompensated 
psychiatric illness. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
Sertraline 50 mg PO DAILY
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder, recurrent severe no psychotic 
features
Post Traumatic Stress Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___